US08754226B2
To a solution of tert-butyl 4-(2,5-dibromopentanamido)piperidine-1-carboxylate (2.21 g, 5.00 mmol) dissolved in DMF (10 mL) was added 60% sodium hydride (0.220 g, 5.5 mmol). The reaction was allowed to stir for 2 hours and then concentrated under vacuum. The resulting material was diluted with water and EtOAc. The organic layer was separated and the aqueous layer washed with EtOAc. The combined organic layers were dried with MgSO4 and concentrated. The residue was purified over silica gel (2:1 hexanes:EtOAc) to give tert-butyl 3-bromo-2-oxo-1,4′-bipiperidine-1′carboxylate (1.35 g, 75%) as a white solid.

reactant | tert-butyl 4-(2,5-dibromopentanamido)piperidine-1-carboxylate | 5.00 mmol, 2.21 g | BrC(C(=O)NC1CCN(CC1)C(=O)OC(C)(C)C)CCCBr | C15H26Br2N2O3
reactant | sodium hydride | 5.5 mmol, 0.220 g | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 3-bromo-2-oxo-1,4′-bipiperidine-1′carboxylate | 1.35 g, 75% | BrC1C(N(CCC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H25BrN2O3
